US05654316
3,4-Dichloro-beta-(2-hydroxyethyl)-N-methyl-N-phenylbenzenepropanamide
3,4-Dichloro-beta-[2-[(phenyl)methylamino]-2-oxoethyl]benzenepropanoic acid (0.98 g) in EtOAc (25 mL) was treated with carbonyldiimidazole (0.653 g) and N,N-dimethylaminopyridine (trace). The resulting solution was stirred at room temperature for 15 minutes and then heated at 50° C. for two hours. The reaction mixture was cooled to 0° C. and treated with a solution of NaBH4 (0.668 g) in H2O (10 mL), warmed slowly to room temperature and stirred for 12 hours. The reaction mixture was then diluted with Et2O and washed with 1N HCl (20 mL), sat. NaHCO3 (20 mL) and water (20 mL). The organic phase was dried over MgSO4, filtered and concentrated under reduced pressure to yield the title compound (0.908 g). Mass spectrum (CI): 352.

reactant | 3,4-Dichloro-beta-[2-[(phenyl)methylamino]-2-oxoethyl]benzenepropanoic acid | 0.98 g | ClC=1C=C(C=CC1Cl)C(CC(=O)O)CC(=O)NCC1=CC=CC=C1 | C18H17Cl2NO3
reactant | carbonyldiimidazole | 0.653 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | NaBH4 | 0.668 g | [BH4-].[Na+]
solvent | EtOAc | 25 mL | CCOC(=O)C | C4H8O2
solvent | H2O | 10 mL | O | H2O
solvent | Et2O | CCOCC | C4H10O
product | 3,4-Dichloro-beta-(2-hydroxyethyl)-N-methyl-N-phenylbenzenepropanamide | 0.908 g | ClC=1C=C(C=CC1Cl)C(CC(=O)N(C1=CC=CC=C1)C)CCO | C18H19Cl2NO2
